US08357693B2
To a suspension of 6-methoxy-2-(3-nitrophenyl)quinazolin-4(3H)-one (3.90 g, 13.1 mmol), in CH2Cl2 (30 mL) cooled to −78° C. under an atmosphere of N2 was added BBr3 as a 1.0M solution in CH2Cl2 (20 mL, 20.0 mmol). The resulting mixture was stirred at −78° C. for 1 h, then allowed to warm to RT upon which it was stirred for a further 3 h. The mixture was re-cooled to −78° C. and stirred overnight. The reaction was quenched by the addition of EtOH (60 mL) and allowed to warm to RT. Stirring was continued for 1 h at RT, upon which a precipitate formed. Sat. NaHCO3 solution was added and the yellow solid was collected via filtration and washed with Et2O and EtOH and dried under vacuum to give 6-hydroxy-2-(3-nitrophenyl)quinazolin-4(3H)-one (2.96 g, 10.5 mmol, 80%). HPLC retention time 5.588 min.

reactant | 6-methoxy-2-(3-nitrophenyl)quinazolin-4(3H)-one | 13.1 mmol, 3.90 g | COC=1C=C2C(NC(=NC2=CC1)C1=CC(=CC=C1)[N+](=O)[O-])=O | C15H11N3O4
reactant | BBr3 | B(Br)(Br)Br | BBr3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20.0 mmol, 20 mL | C(Cl)Cl | CH2Cl2
product | 6-hydroxy-2-(3-nitrophenyl)quinazolin-4(3H)-one | 10.5 mmol, 2.96 g, 80% | OC=1C=C2C(NC(=NC2=CC1)C1=CC(=CC=C1)[N+](=O)[O-])=O | C14H9N3O4
